.title kicad schematic

* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ port
* u5 net-_u28-pad2_ net-_u12-pad2_ d_inverter
* u12 net-_u1-pad6_ net-_u12-pad2_ unconnected-_u12-pad3_ unconnected-_u12-pad4_ unconnected-_u12-pad5_ net-_u12-pad6_ d_dlatch
* u10 net-_u1-pad3_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad6_ d_dlatch
* u11 net-_u1-pad4_ net-_u11-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ unconnected-_u11-pad5_ net-_u11-pad6_ d_dlatch
* u4 net-_u28-pad2_ net-_u11-pad2_ d_inverter
* u3 net-_u28-pad2_ net-_u10-pad2_ d_inverter
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u28 net-_u1-pad8_ net-_u28-pad2_ d_inverter
* u6 net-_u28-pad2_ net-_u13-pad2_ d_inverter
* u7 net-_u28-pad2_ net-_u14-pad2_ d_inverter
* u14 net-_u1-pad12_ net-_u14-pad2_ unconnected-_u14-pad3_ unconnected-_u14-pad4_ unconnected-_u14-pad5_ net-_u14-pad6_ d_dlatch
* u13 net-_u1-pad10_ net-_u13-pad2_ unconnected-_u13-pad3_ unconnected-_u13-pad4_ unconnected-_u13-pad5_ net-_u13-pad6_ d_dlatch
* u15 net-_u1-pad13_ net-_u15-pad2_ unconnected-_u15-pad3_ unconnected-_u15-pad4_ unconnected-_u15-pad5_ net-_u15-pad6_ d_dlatch
* u8 net-_u28-pad2_ net-_u15-pad2_ d_inverter
* u19 net-_u13-pad6_ net-_u19-pad2_ d_inverter
* u25 net-_u19-pad2_ net-_u2-pad2_ net-_u1-pad9_ d_tristate
* u24 net-_u18-pad2_ net-_u2-pad2_ net-_u1-pad7_ d_tristate
* u18 net-_u12-pad6_ net-_u18-pad2_ d_inverter
* u20 net-_u14-pad6_ net-_u20-pad2_ d_inverter
* u27 net-_u21-pad2_ net-_u2-pad2_ net-_u1-pad14_ d_tristate
* u21 net-_u15-pad6_ net-_u21-pad2_ d_inverter
* u26 net-_u20-pad2_ net-_u2-pad2_ net-_u1-pad11_ d_tristate
* u33 net-_u1-pad14_ d_pullup
* u32 net-_u1-pad11_ d_pullup
* u31 net-_u1-pad9_ d_pullup
* u9 net-_u1-pad2_ d_pullup
* u22 net-_u16-pad2_ net-_u2-pad2_ net-_u1-pad2_ d_tristate
* u16 net-_u10-pad6_ net-_u16-pad2_ d_inverter
* u17 net-_u11-pad6_ net-_u17-pad2_ d_inverter
* u23 net-_u17-pad2_ net-_u2-pad2_ net-_u1-pad5_ d_tristate
* u30 net-_u1-pad7_ d_pullup
* u29 net-_u1-pad5_ d_pullup
a1 net-_u28-pad2_ net-_u12-pad2_ u5
a2 net-_u1-pad6_ net-_u12-pad2_ unconnected-_u12-pad3_ unconnected-_u12-pad4_ unconnected-_u12-pad5_ net-_u12-pad6_ u12
a3 net-_u1-pad3_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad6_ u10
a4 net-_u1-pad4_ net-_u11-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ unconnected-_u11-pad5_ net-_u11-pad6_ u11
a5 net-_u28-pad2_ net-_u11-pad2_ u4
a6 net-_u28-pad2_ net-_u10-pad2_ u3
a7 net-_u1-pad1_ net-_u2-pad2_ u2
a8 net-_u1-pad8_ net-_u28-pad2_ u28
a9 net-_u28-pad2_ net-_u13-pad2_ u6
a10 net-_u28-pad2_ net-_u14-pad2_ u7
a11 net-_u1-pad12_ net-_u14-pad2_ unconnected-_u14-pad3_ unconnected-_u14-pad4_ unconnected-_u14-pad5_ net-_u14-pad6_ u14
a12 net-_u1-pad10_ net-_u13-pad2_ unconnected-_u13-pad3_ unconnected-_u13-pad4_ unconnected-_u13-pad5_ net-_u13-pad6_ u13
a13 net-_u1-pad13_ net-_u15-pad2_ unconnected-_u15-pad3_ unconnected-_u15-pad4_ unconnected-_u15-pad5_ net-_u15-pad6_ u15
a14 net-_u28-pad2_ net-_u15-pad2_ u8
a15 net-_u13-pad6_ net-_u19-pad2_ u19
a16 net-_u19-pad2_ net-_u2-pad2_ net-_u1-pad9_ u25
a17 net-_u18-pad2_ net-_u2-pad2_ net-_u1-pad7_ u24
a18 net-_u12-pad6_ net-_u18-pad2_ u18
a19 net-_u14-pad6_ net-_u20-pad2_ u20
a20 net-_u21-pad2_ net-_u2-pad2_ net-_u1-pad14_ u27
a21 net-_u15-pad6_ net-_u21-pad2_ u21
a22 net-_u20-pad2_ net-_u2-pad2_ net-_u1-pad11_ u26
a23 net-_u1-pad14_ u33
a24 net-_u1-pad11_ u32
a25 net-_u1-pad9_ u31
a26 net-_u1-pad2_ u9
a27 net-_u16-pad2_ net-_u2-pad2_ net-_u1-pad2_ u22
a28 net-_u10-pad6_ net-_u16-pad2_ u16
a29 net-_u11-pad6_ net-_u17-pad2_ u17
a30 net-_u17-pad2_ net-_u2-pad2_ net-_u1-pad5_ u23
a31 net-_u1-pad7_ u30
a32 net-_u1-pad5_ u29
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u12 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u10 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u11 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u14 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u13 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u15 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u25 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u24 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u27 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u26 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u33 d_pullup(load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u32 d_pullup(load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u31 d_pullup(load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u9 d_pullup(load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u22 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u23 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u30 d_pullup(load=1.0e-12 ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u29 d_pullup(load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
