.title kicad schematic

.include SN74S268.sub
v1 in gnd pulse(0 5 0 0 0 2m 4m)
v2 out_ctrl gnd pwl(0 5 24m 5 25m 0 50m 0)
* u1 in in in in in in net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ adc_bridge_6
v3 en gnd pwl(0 5 33m 5 34m 0 42m 0 43m 5 50m 5)
x1 net-_u2-pad3_ net-_u3-pad1_ net-_u1-pad7_ net-_u1-pad8_ net-_u3-pad2_ net-_u1-pad9_ net-_u3-pad3_ net-_u2-pad4_ net-_u3-pad4_ net-_u1-pad10_ net-_u3-pad5_ net-_u1-pad11_ net-_u1-pad12_ net-_u3-pad6_ SN74S268
* u3 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ q1 q2 q3 q4 q5 q6 dac_bridge_6
* u2 out_ctrl en net-_u2-pad3_ net-_u2-pad4_ adc_bridge_2
a1 [in in in in in in ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] [q1 q2 q3 q4 q5 q6 ] u3
a3 [out_ctrl en ] [net-_u2-pad3_ net-_u2-pad4_ ] u2
* Schematic Name:                             adc_bridge_6, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-06 50e-03 0e-03

* Control Statements 
.control
run
let d_inputs = v(IN)
let oc_bar = v(OUT_CTRL) + 6
let c = v(EN) + 12
let q1_s = v(q1) + 18
let q2_s = v(q2) + 24
let q3_s = v(q3) + 30
let q4_s = v(q4) + 36
let q5_s = v(q5) + 42
let q6_s = v(q6) + 48
plot D_inputs oc_bar c
.endc
.end
