* c:\fossee\esim\library\subcircuitlibrary\sub_cd4013bc\sub_cd4013bc.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m9 vdd net-_m23-pad2_ net-_m10-pad1_ vdd CMOSP W=100u L=100u M=1
m8 net-_m10-pad3_ net-_m1-pad3_ vss vss CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m1-pad3_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m7 net-_m10-pad3_ net-_m23-pad2_ vss vss CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ vss CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ vdd net-_m1-pad1_ vdd CMOSP W=100u L=100u M=1
m15 vdd net-_m11-pad2_ net-_m15-pad3_ vdd CMOSP W=100u L=100u M=1
m16 net-_m15-pad3_ net-_m10-pad3_ net-_m11-pad1_ vdd CMOSP W=100u L=100u M=1
m14 net-_m11-pad1_ net-_m10-pad3_ vss vss CMOSN W=100u L=100u M=1
m11 net-_m11-pad1_ net-_m11-pad2_ vss vss CMOSN W=100u L=100u M=1
m17 net-_m10-pad3_ vdd net-_m17-pad3_ vss CMOSN W=100u L=100u M=1
m18 net-_m17-pad3_ net-_m1-pad2_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m21 vdd net-_m11-pad2_ net-_m21-pad3_ vdd CMOSP W=100u L=100u M=1
m22 net-_m21-pad3_ net-_m17-pad3_ net-_m19-pad1_ vdd CMOSP W=100u L=100u M=1
m20 net-_m19-pad1_ net-_m17-pad3_ vss vss CMOSN W=100u L=100u M=1
m19 net-_m19-pad1_ net-_m11-pad2_ vss vss CMOSN W=100u L=100u M=1
m28 vdd net-_m23-pad2_ net-_m28-pad3_ vdd CMOSP W=100u L=100u M=1
m29 net-_m28-pad3_ net-_m19-pad1_ net-_m23-pad1_ vdd CMOSP W=100u L=100u M=1
m25 net-_m23-pad1_ net-_m19-pad1_ vss vss CMOSN W=100u L=100u M=1
m23 net-_m23-pad1_ net-_m23-pad2_ vss vss CMOSN W=100u L=100u M=1
m26 net-_m17-pad3_ net-_m1-pad2_ net-_m23-pad1_ vss CMOSN W=100u L=100u M=1
m30 net-_m23-pad1_ vdd net-_m17-pad3_ vdd CMOSP W=100u L=100u M=1
m32 vdd net-_m19-pad1_ net-_m31-pad1_ vdd CMOSP W=100u L=100u M=1
m31 net-_m31-pad1_ net-_m19-pad1_ vss vss CMOSN W=100u L=100u M=1
m27 vdd net-_m17-pad3_ net-_m24-pad1_ vdd CMOSP W=100u L=100u M=1
m24 net-_m24-pad1_ net-_m17-pad3_ vss vss CMOSN W=100u L=100u M=1
m12 net-_m1-pad3_ vdd net-_m11-pad1_ vss CMOSN W=100u L=100u M=1
m13 net-_m11-pad1_ net-_m1-pad2_ net-_m1-pad3_ vdd CMOSP W=100u L=100u M=1
m4 vdd net-_m3-pad2_ net-_m1-pad2_ vdd CMOSP W=100u L=100u M=1
m3 net-_m1-pad2_ net-_m3-pad2_ vss vss CMOSN W=100u L=100u M=1
m6 vdd net-_m1-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m5 vdd net-_m1-pad2_ vss vss CMOSN W=100u L=100u M=1
m34 net-_m33-pad3_ net-_m24-pad1_ vss vss CMOSN W=100u L=100u M=1
m33 vdd net-_m24-pad1_ net-_m33-pad3_ vdd CMOSP W=100u L=100u M=1
* u1  vdd vss net-_m23-pad2_ net-_m11-pad2_ net-_m3-pad2_ net-_m1-pad1_ net-_m33-pad3_ net-_m24-pad1_ net-_m41-pad2_ net-_m45-pad2_ net-_m37-pad2_ net-_m35-pad1_ net-_m67-pad1_ net-_m58-pad1_ port
m43 vdd net-_m41-pad2_ net-_m43-pad3_ vdd CMOSP W=100u L=100u M=1
m42 net-_m41-pad1_ net-_m35-pad3_ vss vss CMOSN W=100u L=100u M=1
m44 net-_m43-pad3_ net-_m35-pad3_ net-_m41-pad1_ vdd CMOSP W=100u L=100u M=1
m41 net-_m41-pad1_ net-_m41-pad2_ vss vss CMOSN W=100u L=100u M=1
m35 net-_m35-pad1_ net-_m35-pad2_ net-_m35-pad3_ vss CMOSN W=100u L=100u M=1
m36 net-_m35-pad3_ vdd net-_m35-pad1_ vdd CMOSP W=100u L=100u M=1
m49 vdd net-_m45-pad2_ net-_m49-pad3_ vdd CMOSP W=100u L=100u M=1
m50 net-_m49-pad3_ net-_m41-pad1_ net-_m45-pad1_ vdd CMOSP W=100u L=100u M=1
m48 net-_m45-pad1_ net-_m41-pad1_ vss vss CMOSN W=100u L=100u M=1
m45 net-_m45-pad1_ net-_m45-pad2_ vss vss CMOSN W=100u L=100u M=1
m51 net-_m41-pad1_ vdd net-_m51-pad3_ vss CMOSN W=100u L=100u M=1
m52 net-_m51-pad3_ net-_m35-pad2_ net-_m41-pad1_ vdd CMOSP W=100u L=100u M=1
m55 vdd net-_m45-pad2_ net-_m55-pad3_ vdd CMOSP W=100u L=100u M=1
m56 net-_m55-pad3_ net-_m51-pad3_ net-_m53-pad1_ vdd CMOSP W=100u L=100u M=1
m54 net-_m53-pad1_ net-_m51-pad3_ vss vss CMOSN W=100u L=100u M=1
m53 net-_m53-pad1_ net-_m45-pad2_ vss vss CMOSN W=100u L=100u M=1
m62 vdd net-_m41-pad2_ net-_m62-pad3_ vdd CMOSP W=100u L=100u M=1
m63 net-_m62-pad3_ net-_m53-pad1_ net-_m57-pad1_ vdd CMOSP W=100u L=100u M=1
m59 net-_m57-pad1_ net-_m53-pad1_ vss vss CMOSN W=100u L=100u M=1
m57 net-_m57-pad1_ net-_m41-pad2_ vss vss CMOSN W=100u L=100u M=1
m60 net-_m51-pad3_ net-_m35-pad2_ net-_m57-pad1_ vss CMOSN W=100u L=100u M=1
m64 net-_m57-pad1_ vdd net-_m51-pad3_ vdd CMOSP W=100u L=100u M=1
m66 vdd net-_m53-pad1_ net-_m65-pad1_ vdd CMOSP W=100u L=100u M=1
m65 net-_m65-pad1_ net-_m53-pad1_ vss vss CMOSN W=100u L=100u M=1
m61 vdd net-_m51-pad3_ net-_m58-pad1_ vdd CMOSP W=100u L=100u M=1
m58 net-_m58-pad1_ net-_m51-pad3_ vss vss CMOSN W=100u L=100u M=1
m46 net-_m35-pad3_ vdd net-_m45-pad1_ vss CMOSN W=100u L=100u M=1
m47 net-_m45-pad1_ net-_m35-pad2_ net-_m35-pad3_ vdd CMOSP W=100u L=100u M=1
m38 vdd net-_m37-pad2_ net-_m35-pad2_ vdd CMOSP W=100u L=100u M=1
m37 net-_m35-pad2_ net-_m37-pad2_ vss vss CMOSN W=100u L=100u M=1
m40 vdd net-_m35-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m39 vdd net-_m35-pad2_ vss vss CMOSN W=100u L=100u M=1
m67 net-_m67-pad1_ net-_m58-pad1_ vss vss CMOSN W=100u L=100u M=1
m68 vdd net-_m58-pad1_ net-_m67-pad1_ vdd CMOSP W=100u L=100u M=1
.tran 5e-12 200e-06 1e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
